US07074798B2
b) 7-Benzyl-3,7-dihydropurine-2,6-dione
A white suspension of 2-amino-7-benzyl-1,7-dihydropurin-6-one hydrochloride (12.88 g) in acetic acid (320 ml) and water (32 ml) was stirred at 110° C. for 10 minutes, and then at 50° C. for 10 minutes. Aqueous solution (32 ml) of sodium nitrite (12.88 g) was slowly added dropwise at 50° C. thereto. The reaction mixture was stirred at 50° C. for 15 hours, and the resulting pale brown suspension was collected by filtration to give 4.27 g of the title compound.

reactant | 2-amino-7-benzyl-1,7-dihydropurin-6-one hydrochloride | 12.88 g | Cl.NC=1NC(C=2N(C=NC2N1)CC1=CC=CC=C1)=O
reactant | sodium nitrite | 32 ml, 12.88 g | N(=O)[O-].[Na+]
solvent | acetic acid | 320 ml | C(C)(=O)O | C2H4O2
solvent | water | 32 ml | O | H2O
product | 7-Benzyl-3,7-dihydropurine-2,6-dione | 4.27 g | C(C1=CC=CC=C1)N1C=NC=2NC(NC(C12)=O)=O | C12H10N4O2
